US05395845
1-[2-(trifluoromethyl) 4-thiazolyl] ethanol
Using the procedure of Example 1, 2-trifluoromethyl-4-thiazolecarboxaldehyde and methyl magnesium bromide were reacted to obtain the desired product with a Rf=0.17 [hexane-ethyl acetate (7-3)].

reactant | 2-trifluoromethyl-4-thiazolecarboxaldehyde | FC(C=1SC=C(N1)C=O)(F)F | C5H2F3NOS
reactant | methyl magnesium bromide | C[Mg]Br
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-[2-(trifluoromethyl) 4-thiazolyl] ethanol | FC(C=1SC=C(N1)C(C)O)(F)F | C6H6F3NOS
